US04702851
Add 2 g of triethylene tetraamine (with an AV of approximately 1180 mg KOG/g) to 20 ml of toluene in a 250 ml flask fitted with a stirrer, condensor and nitrogen inlet. Add 27.6 g ethylene carbonate to the mixture. Reflux the system for 2.5 hours under N2. Strip the system to yield an ethylene carbonate-triethylene tetraamine adduct having an AV of approximately 104 mg KOH/g.

reactant | triethylene tetraamine | 2 g | NCCNCCNCCN | C6H18N4
reactant | ethylene carbonate | 27.6 g | C1(OCCO1)=O | C3H4O3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | ethylene carbonate triethylene tetraamine | C1(OCCO1)=O.NCCNCCNCCN | InChI=1S/C6H18N4.C3H4O3/c7-1-3-9-5-6-10-4-2-8;4-3-5-1-2-6-3/h9-10H,1-8H2;1-2H2
